US08217185B2
Quinoline (4.86 μL, 0.0411 mmol) and 10% Pd/BaSO4 (0.88 mg, 0.00824 mmol) were added to a stirred solution of (4E)-13-methyloxacyclopentadec-4-en-9-yn-2-one (48.2 mg, 0.206 mmol) in ethanol (2.0 mL). The reaction flask was flushed with argon followed by hydrogen, and the reaction mixture was stirred under hydrogen atmosphere at room temp. and ambient pressure. After 3.5 h, GC-monitoring indicated complete conversion, upon which the catalyst was filtered off through a pad of Celite and washed with ethanol. The solvent was removed under reduced pressure, and the resulting residue purified by chromatography on silica gel [20 g; pentane-Et2O (10:1); Rf=0.78 in pentane-Et2O (5:1)] to furnish (4E,9Z)-13-methyloxacyclopentadeca-4,9-dien-2-one (44.8 mg, 92%) as a colourless odoriferous liquid.

reactant | Quinoline | 0.0411 mmol, 4.86 μL | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | (4E)-13-methyloxacyclopentadec-4-en-9-yn-2-one | 0.206 mmol, 48.2 mg | CC1CCC#CCCC/C=C/CC(OCC1)=O | C15H22O2
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
catalyst | Pd BaSO4 | 0.00824 mmol, 0.88 mg | [Pd].[O-]S(=O)(=O)[O-].[Ba+2]
product | (4E,9Z)-13-methyloxacyclopentadeca-4,9-dien-2-one | 44.8 mg, 92% | CC1CC\C=C/CCC/C=C/CC(OCC1)=O | C15H24O2
